US08349826B2
5.i. 3-(7-methoxy-2-oxo-2H-quinolin-1-yl)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 7-methoxy-2(1H)-quinolinone (commercial; 290 mg; 1.65 mmol) and tert-butyl 3-iodo-1-azetidinecarboxylate (commercial; 391 mg; 1.38 mmol) and Cs2CO3 (613 mg; 1.88 mmol) in DMF (2 mL) was heated at 80° C. for 4 h. The reaction mixture was diluted with water and extracted with EA. The combined org. layers were washed with water and brine, dried over MgSO4, concentrated under reduced pressure and purified by CC (Hept/EA 1:1), affording a pale yellow oil (271 mg, 65% yield).

reactant | 7-methoxy-2(1H)-quinolinone | 1.65 mmol, 290 mg | COC1=CC=C2C=CC(NC2=C1)=O | C10H9NO2
reactant | tert-butyl 3-iodo-1-azetidinecarboxylate | 1.38 mmol, 391 mg | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | Cs2CO3 | 1.88 mmol, 613 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(7-methoxy-2-oxo-2H-quinolin-1-yl)-azetidine-1-carboxylic acid tert-butyl ester | 271 mg, 65% yield | C(C)(C)(C)OC(=O)N1CC(C1)N1C(C=CC2=CC=C(C=C12)OC)=O | C18H22N2O4
